US04876251
To a solution of 0.98 ml diisopropylamine in 13 ml anhydrous tetrahydrofuran 4.29 ml 1.5M n-butyllithium (in hexane solution) was added under nitrogen gas atmosphere, while stirring the solution at -78° C. After the mixture was stirred for 15 minutes, a solution of 1.18 g dimethyl 2-oxoglutarate dimethyl ketal in 7 ml anhydrous tetrahydrofuran was added over a period of 15 minutes, then the resulting mixture was stirred for 15 minutes. A solution of 0.76 ml benzyl bromide and 0.28 ml hexamethylphosphoramide in 7 ml anhydrous tetrahydrofuran was added over a period of 5 minutes, and the resulting mixture was stirred at -78° C. for 30 minutes. The reaction mixture, after raising temperature to -20° C. over a period of 2 hours with stirring, was diluted with a saturated aqueous solution of ammonium chloride and extracted with ethyl acetate. The resulting extract was washed with water and dried (MgSO4), then the solvent was evaporated. The resulting residue was eluted with hexane-ethyl acetate (5:1→2:1) via column chromatography using silica gel to yield 1.64 g dimethyl 4-benzyl-2-oxoglutarate dimethyl ketal in the form of a light yellow oily substance.

reactant | diisopropylamine | 0.98 ml | C(C)(C)NC(C)C | C6H15N
reactant | dimethyl 2-oxoglutarate dimethyl ketal | 1.18 g | COC(C(CCC(=O)OC)=O)(OC)OC | C9H16O6
reactant | benzyl bromide | 0.76 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexamethylphosphoramide | 0.28 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 1.5M, 13 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | dimethyl 4-benzyl-2-oxoglutarate dimethyl ketal | 1.64 g | COC(C(CC(C(=O)OC)CC1=CC=CC=C1)=O)(OC)OC | C16H22O6
